US06399629B1
(A) N-(tert-butoxycarbonyl)-trans-4-allyloxy-L-proline ethyl ester
Freshly prepared silver oxide (5.32 g, 3 eq.) and allyl iodide (15 mL, 4 eq.) were added to a solution of N-(tert-butoxycarbonyl)-trans-4-hydroxy-L-proline ethyl ester (2.2 g, 7.71 mmol) in dimethylformamide (15 mL) under a nitrogen atmosphere. The reaction mixture was stirred at 25° C. for 12 hours, then at 55° C. for 5 hours. The reaction mixture was filtered, poured into ethyl acetate, washed twice with water, once with brine, dried (Na2SO4), concentrated and purifed by flash chromatography (20% ethyl acetate/hexane) to give the title compound (2.18 g, 94%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 1.38 (m, 3H), 1.48, 1.54 (2s, 9H), 2.17 (m, 1H), 2.23 (m, 1H), 3.58 (bd, J=12.4 Hz, 0.5H), 3.70 (m, 1.5H), 4.05 (m, 2H), 4.22 (m, 3H), 4.43 (m, 1H), 5.29 (dd, J=10.1; 0.7 Hz, 1H), 5.39 (dd, J=17.6; 0.6 Hz, 1H) and 5.99 (m, 1H).

reactant | allyl iodide | 15 mL, 4 eq. | C(C=C)I | C3H5I
reactant | N-(tert-butoxycarbonyl)-trans-4-hydroxy-L-proline ethyl ester | 7.71 mmol, 2.2 g | C(C)OC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C12H21NO5
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | silver oxide | 5.32 g, 3 eq. | [Ag]=O
product | N-(tert-butoxycarbonyl)-trans-4-allyloxy-L-proline ethyl ester | 2.18 g, 94% | C(C)OC([C@H]1N(C[C@@H](C1)OCC=C)C(=O)OC(C)(C)C)=O | C15H25NO5
